US09334278B2
A microwave vial was charged with a mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (77.9 mg, 182 μmol), 2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-b]pyridine (25 mg, 182 μmol), xantphos (31.6 mg, 54.7 μmol), Pd2(dba)3 (16.7 mg, 18.2 μmol) and Cs2CO3 (119 mg, 364 μmol) in dioxane (2 mL). The mixture was purged with argon and then heated to 150° C. for 20 min under microwave irradiation. The mixture was diluted with CH2Cl2 and then filtered through a pad of celite. The filtrate was concentrated in vacuo and the residue purified by chromatography (40 g column, 50 m silica-gel from Analogix, 0 to 5% 9:1 methanol:ammonium hydroxide in CH2Cl2, 20 min) to give N-tert-butyl-2-(2-methyl-6,7-dihydro-2H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (87 mg, 99%) as a yellow foam. 1H NMR (CHLOROFORM-d) δ: 8.20 (s, 1H), 8.15 (s, 1H), 7.99 (s, 1H), 7.85 (s, 1H), 5.64 (s, 2H), 3.91 (s, 3H), 3.50-3.63 (m, 2H), 2.93 (t, J=6.6 Hz, 2H), 2.15-2.30 (m, 2H), 1.53-1.62 (m, 11H), 0.86-1.05 (m, 2H), 0.00 (s, 9H). MS (EI/CI) m/z: 484.0 [M+H].

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 182 μmol, 77.9 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | 2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-b]pyridine | 182 μmol, 25 mg | CN1N=C2C(NCCC2)=C1 | C7H11N3
reactant | xantphos | 54.7 μmol, 31.6 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 364 μmol, 119 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 18.2 μmol, 16.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-tert-butyl-2-(2-methyl-6,7-dihydro-2H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 87 mg, 99% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)N2C=1C(CCC2)=NN(C1)C)COCC[Si](C)(C)C | C24H37N7O2Si
